US20010019995A1
A solution of 3.8 mmol of 1-(7-hydroxyheptyl)-cyclopropene in 50 ml of ether was cooled in an ice bath. Triethylamine (1 ml) and 0.48 g of methanesulfonyl chloride (4.2 mmol) were added and the reaction mixture was stirred for 2½ hours at 0° C. The reaction mixture was washed with water and brine, dried over magnesium sulfate, filtered and stripped to give 1-(7-methanesulfonyloxyheptyl)-cyclopropene which was used without further purification.

reactant | 1-(7-hydroxyheptyl)-cyclopropene | 3.8 mmol | OCCCCCCCC1=CC1 | C10H18O
reactant | Triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.2 mmol, 0.48 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1-(7-methanesulfonyloxyheptyl)-cyclopropene | CS(=O)(=O)OCCCCCCCC1=CC1 | C11H20O3S
